US05821250
7-tert-Butyl-2,3-dihydro-3,3-dimethyl-5-(2-furanyl)benzo[b]thiophene
A mixture of 5-bromo-7-tert-butyl-2,3-dihydro-3,3-dimethylbenzo[b]thiophene (1.20 g, 4.0 mmol), 2-(tributylstannyl)furan (1.71 g , 4.8 mmol), tetrakis(triphenylphosphine)palladium (0.46 g, 0.4 mmol), and 20 mL of toluene is heated under argon at reflux for 30 min. The reaction mixture is cooled to room temperature, concentrated in vacuo, diluted with ether, washed with 10% aqueous ammonium hydroxide solution and with brine, dried over anhydrous magnesium sulfate, and concentrated to give a dark oil. Purification by flash column chromatography on silica gel (1% ethyl acetate-hexane) yields about 0.46 g (40%) of the title compound as an oil.

reactant | 5-bromo-7-tert-butyl-2,3-dihydro-3,3-dimethylbenzo[b]thiophene | 4.0 mmol, 1.20 g | BrC1=CC2=C(SCC2(C)C)C(=C1)C(C)(C)C | C14H19BrS
reactant | 2-(tributylstannyl)furan | 4.8 mmol, 1.71 g | C(CCC)[Sn](C=1OC=CC1)(CCCC)CCCC
catalyst | tetrakis(triphenylphosphine)palladium | 0.4 mmol, 0.46 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 7-tert-Butyl-2,3-dihydro-3,3-dimethyl-5-(2-furanyl)benzo[b]thiophene | about 0.46 g, 40% | C(C)(C)(C)C1=CC(=CC2=C1SCC2(C)C)C=2OC=CC2 | C18H22OS
